US05095013
Allyl (1R,5S,6S)-2-[(2S,4S)-N-allyloxycarbonyl-2-hydroxymethylpyrrolidin-4-ylthio]-6-[(R)-1-allyloxycarbonyloxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
The same operation as in Reference Example 9 was carried out by using allyl (1R,3R,5S,6S)-6-[(R)-1-allyloxycarbonyloxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate (700 mg, 2 mmol) and (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-mercaptopyrrolidine (the compound obtained in Reference Example 1; 470 mg, 1.8 mmol) to obtain the title compound (410 mg, 37% yield).

reactant | allyl (1R,3R,5S,6S)-6-[(R)-1-allyloxycarbonyloxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 2 mmol, 700 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC=C)C1=O | C17H21NO7
reactant | (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-mercaptopyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CO | C9H15NO3S
product | Allyl (1R,5S,6S)-2-[(2S,4S)-N-allyloxycarbonyl-2-hydroxymethylpyrrolidin-4-ylthio]-6-[(R)-1-allyloxycarbonyloxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 410 mg, 37% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)OC(=O)OCC=C)=O)C)CO | C26H34N2O9S
